US07968598B2
Under a nitrogen atmosphere, 0.23 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride was added to a mixture of 0.20 g of 4-allyl-2,3,5,6-tetrafluorobenzyl alcohol, 0.16 g of (1R)-trans-3-(2-cyano-1-propeny)-2,2-dimethylcyclopropanecarboxylic acid, 0.05 g of 4-dimethylaminopyridine and 4 ml of anhydrous chloroform, and the mixture was stirred at room temperature for 3 hours. Thereafter, the reaction mixture was poured into ice water, followed by extraction with ethyl acetate two times. Ethyl acetate layers were combined, washed with an aqueous saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to obtain 0.32 g of 4-allyl-2,3,5,6-tetrafluorobenzyl(1R)-trans-3-(2-cyano-1-propenyl)-2,2-dimethylcyclopropanecarboxylate represented by the following formula:

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.23 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-allyl-2,3,5,6-tetrafluorobenzyl alcohol | 0.20 g | C(C=C)C1=C(C(=C(CO)C(=C1F)F)F)F | C10H8F4O
reactant | (1R)-trans-3-(2-cyano-1-propeny)-2,2-dimethylcyclopropanecarboxylic acid | 0.16 g | C(#N)C(=C[C@H]1C([C@@H]1C(=O)O)(C)C)C | C10H13NO2
catalyst | 4-dimethylaminopyridine | 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-allyl-2,3,5,6-tetrafluorobenzyl(1R)-trans-3-(2-cyano-1-propenyl)-2,2-dimethylcyclopropanecarboxylate | 0.32 g | C(#N)C(=C[C@H]1C([C@@H]1C(=O)OCC1=C(C(=C(C(=C1F)F)CC=C)F)F)(C)C)C | C20H19F4NO2
